US05319133
C. Preparation of N-chlor-2,2-dimethyl valeramide
A stirred suspension of 2,2-dimethyl valeramide (35 g, 271 mmol) in ethyl acetate (200 ml) was cooled to 0° C. and hypochlorous acid (40.0 g of 36.2% solution, 276 mmol) was added dropwise over 12 minutes. The resulting clear yellow solution was then stirred for 30 minutes at room temperature, the organic phase separated and dried (MgSO4) and the ethyl acetate removed in vacuo to give 39.35 g of low-melting solid product.

reactant | 2,2-dimethyl valeramide | 271 mmol, 35 g | CC(C(=O)N)(CCC)C | C7H15NO
reactant | hypochlorous acid | 276 mmol, 40.0 g | ClO | ClHO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-chlor-2,2-dimethyl valeramide | 39.35 g | ClNC(C(CCC)(C)C)=O | C7H14ClNO
